US06824882B2
A mixture of 15.03 g of 1-bromo-11-(nonafluorobutyl)undecane and 15.00 g of triethyl phosphite was heated at 150° C. After 18 hr, an additional 9.00 g of triethyl phosphite was added, and heating was continued for 24 hr. Diethyl ethylphosphonate and other volatiles were removed by distillation, b.p. 30-50° C. at 0.05 torr (7 Pa). Bulb-to-bulb distillation of the concentrate provided 16.07 g of 1-(diethylphosphono)-1-(nonafluorobutyl)undecane as a clear, colorless liquid, b.p. 170-200° C. at 0.05 torr (7 Pa).

reactant | 1-bromo-11-(nonafluorobutyl)undecane | 15.03 g | BrCCCCCCCCCCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C15H22BrF9
reactant | triethyl phosphite | 15.00 g | P(OCC)(OCC)OCC | C6H15O3P
reactant | triethyl phosphite | 9.00 g | P(OCC)(OCC)OCC | C6H15O3P
product | 1-(diethylphosphono)-1-(nonafluorobutyl)undecane | 16.07 g | C(C)OP(=O)(OCC)C(CCCCCCCCCC)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C19H32F9O3P
